US05767285
Under dry condition, 3.58 g (18.41 mmol) of 5-acetylsalicylic acid, methyl ester is dissolved in 25 mL of dry N,N-dimethylformamide. To this solution is added 3.07 g (20.58 mmol) of 5-bromo-1-pentene, 6.83 (20.58 mmol) of potassium carbonate, and 0.246 g (1.65 mmol) of potassium iodide, and the reaction mixture is stirred for 24 hours at ambient temperature. Another portion of 5-bromopentene is added to the reaction, followed by one-half portions of the other two reagents above, and stirring is continued for 72 hours. The mixture is then evaporated under high vacuum at 70° C. The residue is partitioned between ether/water and the organic phase is separated, dried with magnesium sulfate, filtered, and evaporated under vacuum to leave 4.60 g (95%) of 5-acetyl-2-(4-pentenyloxy)benzoic acid, methyl ester as a yellow liquid: IR (neat) 1735, 1710, 1680 cm-1 ; 1HNMR (CDCl3) is consistent with the desired product; MS (FAB) m/e 263 (M+ +H). Analysis calculated for C15H18O4 : C, 68.69; H, 6.92; O, 24.40. Found: C, 68.60; H, 6.92; O, 24.46.

reactant | 5-acetylsalicylic acid, methyl ester | 18.41 mmol, 3.58 g | C(C)(=O)C1=CC=C(C(C(=O)OC)=C1)O | C10H10O4
reactant | 5-bromo-1-pentene | 20.58 mmol, 3.07 g | BrCCCC=C | C5H9Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
catalyst | potassium iodide | 1.65 mmol, 0.246 g | [I-].[K+]
product | 5-acetyl-2-(4-pentenyloxy)benzoic acid, methyl ester | 4.60 g, 95% | C(C)(=O)C=1C=CC(=C(C(=O)OC)C1)OCCCC=C | C15H18O4
